US08030334B2
3-Bromopyridine and N-Boc-6-chloro-indole-2-boronic acid are processed according to the procedure described in Example 91 to give 6-chloro-2-pyridin-3-yl-1H-indole. (ESI) m/z 229.0 (M+H)+.

reactant | 3-Bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | N-Boc-6-chloro-indole-2-boronic acid | C(=O)(OC(C)(C)C)N1C(=CC2=CC=C(C=C12)Cl)B(O)O | C13H15BClNO4
product | 6-chloro-2-pyridin-3-yl-1H-indole | ClC1=CC=C2C=C(NC2=C1)C=1C=NC=CC1 | C13H9ClN2
